US04665127
In 87 g of toluene was dissolved 38.3 g (0.1M) of tetra-n-butoxyzirconium, and 20.0 g (0.2M) of acetylacetone was gradually added to the resulting solution with stirring. An exothermic reaction of the mixture took place to give di-n-butoxyzirconium bisacetylacetonato.

reactant | tetra-n-butoxyzirconium | 0.1M, 38.3 g | C(CCC)O[Zr](OCCCC)(OCCCC)OCCCC
reactant | acetylacetone | 0.2M, 20.0 g | C(C)(=O)CC(C)=O | C5H8O2
solvent | toluene | 87 g | C1(=CC=CC=C1)C | C7H8
product | di-n-butoxyzirconium | C(CCC)O[Zr]OCCCC | InChI=1S/2C4H9O.Zr/c2*1-2-3-4-5;/h2*2-4H2,1H3;/q2*-1;+2
